US04383945
To a solution of (3R,4R)-4-(2-oxoethyl)-3-phthalimidoazetidin-2-one (52 mg) in a mixture of methanol (3 ml) and dichloromethane (1 ml) was added a solution of sodium borohydride (8 mg) in methanol (2 ml) at 0° C. during one hour. The reaction was quenched by addition of acetic acid (two drops). After evaporation in vacuo, the residue was chromatographed on silica gel (1.6 g; eluting with 3 to 5% methanol in dichloromethane) to give 32 mg of crude crystals. Crystallization from a mixture of methanol and ether afforded 27 mg (51.5%) of (3R,4R)-4-(2-hydroxyethyl)-3-phthalimidoazetidin-2-one. IR (Nujol): 3350(br), 3250, 1750, and 1705 cm-1 ; NMR (DMSO-d6) δ: 1.79 (q, J=6 Hz, 2H), 3.46 (m, 2H), 3.97 (dt, J=2.5 and 6 Hz, 1H), 4.47 (brs, 1H), 4.89 (d, J=2.5 Hz, 1H), 7.86 (s, 4H), and 8.42 (brs, 1H).

reactant | (3R,4R)-4-(2-oxoethyl)-3-phthalimidoazetidin-2-one | 52 mg | O=CC[C@@H]1[C@H](C(N1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H10N2O4
reactant | sodium borohydride | 8 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | (3R,4R)-4-(2-hydroxyethyl)-3-phthalimidoazetidin-2-one | 27 mg, 51.5% | OCC[C@@H]1[C@H](C(N1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H12N2O4
